US06001997
Phosphorus pentachloride (2.15 g, 10.32 mmol) in dichloromethane (108 ml) was added to 4-methoxybenzyl (6R,7R)-7-phenylacetamido-3-[(RS)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate (3.40 g, 6.69 mmol) and N-methylmorpholine (1.50 ml, 13.64 mmol) in dichloromethane (30 ml) at -25° C. The reaction was stirred at -10±5° C. for 45 min., then methanol (14 ml) was added, and stirring continued for 45 min. at room temperature. Water (27 ml) was then added, and the mixture vigorously stirred for a further 1 h. The dichloromethane was evaporated in vacuo, the aqueous residue washed with diethyl ether, then adjusted to pH7 with ammonium hydroxide in the presence of ethyl acetate. The mixture was extracted with ethyl acetate (x2), dried and concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with 50, 70, 80% ethyl acetate in hexane yielding 4-methoxybenzyl (6R,7R)-7-amino-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate (980 mg, 38%) as a yellow foam; νmax (CH2Cl2) 1777, 1721, 1613, 1516, 1152 cm-1 ; δH (CDCl3, 250 MHz) 1.53-1.71 (1 H, m), 1.84-2.02 (4 H, m, 2 exch.), 2.25-2.40 (1 H, m), 3.31 and 3.60 (2 H, ABq, J 18.5 Hz), 3.78-3.98 (2 H, m), 3.81 (3 H, s), 4.72 (1 H, d, J 5.0 Hz), 4.86-4.93 (2 H, m), 5.19 (2 H, s), 6.88 (2 H, d, J 8.6 Hz), 7.33 (2 H, d, J 8.6 Hz). [Mass spectrum: M+ (390)].

reactant | Phosphorus pentachloride | 10.32 mmol, 2.15 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 4-methoxybenzyl (6R,7R)-7-phenylacetamido-3-[(RS)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 6.69 mmol, 3.40 g | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C2OCCC2)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C27H28N2O6S
reactant | N-methylmorpholine | 13.64 mmol, 1.50 ml | CN1CCOCC1 | C5H11NO
reactant | methanol | 14 ml | CO | CH4O
solvent | dichloromethane | 108 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | Water | 27 ml | O | H2O
product | 4-methoxybenzyl (6R,7R)-7-amino-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 980 mg, 38% | N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2OCCC2)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C19H22N2O5S
